Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lower abdomen pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ G0p0 ___ awoke 2 days ago with "stomach
pain" in the bilateral lower quadrants. Endorses fatigue, denies
myalgias.  Denies nausea, vomiting, endorses fever at home ___.
Denies dysuria, denies hematuria, flank pain. Has been
amennorheic with IUD since ___, until 2 days ago when she
started having foul smelling vaginal discharge/ spotting.  
Denies
dizziness, lightheadedness. denies diarrhea, constipation. 
Denies
cough, shortness of breath, denies rash or sick contacts. 
 
Past Medical History:
                      PAST MEDICAL HISTORY
obesity
_
________________________________________________________________
                      PAST SURGICAL HISTORY
appendectomy (age ___, ruptured)
gastric bypass
_
________________________________________________________________
                      OBSTETRIC HISTORY
G0
_
________________________________________________________________
                      GYNECOLOGIC HISTORY
menarche: 12
 cycle length: q30, regular
 days of menses:  ___
 flow: heavy | ++ dysmenorrhea
 intermenstrual bleeding: denies
** currently amenorrheic with mirena

h/o abnormal pap: denies
 last pap: unsure

contraception current: ___

gyn surgery: denies
 fibroids: denies

h/o STI: chlamydia ___ (denies)
 PID: denies
 
Social History:
___
Family History:
Denies family history of breast, uterine cancer
Denies history of familial syndromic illness
 
Physical Exam:
Vitals: stable and within normal limits
PE: Comfortable, lying in bed
Pulm: Breathing comfortably on room air, clear to auscultation 
bilaterally
Cardiac: regular rate and rhythm
Abd: soft, minimal suprapubic tenderness to deep palpation, no
rebound or guarding, nondistended
Ext: warm, well perfused, no tenderness or erythema, no edema, 
+2
pedal pulses
GU: minor spotting in pad

 
Pertinent Results:
___ 04:35AM BLOOD WBC-29.7* RBC-3.47* Hgb-10.6* Hct-32.3* 
MCV-93 MCH-30.5 MCHC-32.8 RDW-13.0 RDWSD-44.2 Plt ___
___ 05:25AM BLOOD WBC-11.3* RBC-3.62* Hgb-10.6* Hct-34.1 
MCV-94 MCH-29.3 MCHC-31.1* RDW-12.8 RDWSD-44.2 Plt ___
___ 04:35AM BLOOD Neuts-84.1* Lymphs-8.8* Monos-6.0 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-24.97* AbsLymp-2.61 
AbsMono-1.79* AbsEos-0.00* AbsBaso-0.05
___ 05:25AM BLOOD Neuts-68.2 ___ Monos-9.0 Eos-1.5 
Baso-0.2 Im ___ AbsNeut-7.69* AbsLymp-2.32 AbsMono-1.02* 
AbsEos-0.17 AbsBaso-0.02
___ 04:35AM BLOOD Glucose-86 UreaN-9 Creat-0.7 Na-136 K-3.8 
Cl-103 HCO3-21* AnGap-12
___ 04:35AM BLOOD ALT-9 AST-22 AlkPhos-95 TotBili-1.2
___ 04:35AM BLOOD Albumin-3.5
___ 02:06PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 04:35AM BLOOD Trep Ab-PND
___ 04:35AM BLOOD HIV Ab-NEG
___ 02:06PM BLOOD HCV Ab-NEG
___ 04:30AM BLOOD Lactate-1.___. No acute abdominopelvic process detected on CT.  
Specifically, no 
inflammatory changes are seen within the pelvis, and no focal 
fluid 
collections are present. 
2. Post Roux-en-Y gastric bypass. 
  

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after transfer to ___ ED from ___ with fever and pelvic 
pain. On admission, she was noted to be febrile to 102.5F. She 
was started on intravenous antibiotics, which were continued for 
24 hours of the patient remaining afebrile. A second read of the 
CT performed at the outside hospital demonstrated no fluid 
collections or inflammation, but the patient's labs returned 
positive for gonorrhea and chlamydia. Her white blood cell count 
was trended and decreased upon antibiotic treatment. The 
patient's abdominal pain improved. Per patient's request, her 
mirena IUD was removed without difficulty.

By hospital day 2, her white count was down-trending, she 
remained afebrile for >24 hours and tolerated oral antibiotics, 
and her pain was improved. She was tolerating a full diet, 
ambulating independently, and voiding spontaneously. The patient 
declined a bridging contraceptive method, choosing instead to 
decide on a method on outpatient follow up. She was thus 
discharged home in stable condition with close follow up 
scheduled.
 
Medications on Admission:
none
 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H x 7 days 
Please complete the full 7 day course ___ is day 1) 
RX *azithromycin [Zithromax] 250 mg 1 tablet(s) by mouth once a 
day Disp #*6 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic inflammatory disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service are presenting with 
abdominal pain and fevers, with lab tests consistent with pelvic 
inflammatory disease. You received intravenous antibiotics with 
improvement in your fever symptoms and white blood cell count (a 
marker of inflammation). Your IUD was also removed and you were 
started Depo Provera, an injectable hormonal contraception 
method that will provide coverage for 3 months. Please follow up 
with your primary gynecologist to discuss further contraception.

You have recovered well and the team believes you are ready to 
be discharged home. You are being discharged with a course of 
oral antibiotics. Please complete the full 7 day course of 
antibiotics (azithromycin) as prescribed. 

Please call Dr. ___ office with any questions or 
concerns. Please follow the instructions below.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___